US07183270B2
(±) 1-[(1S,2R*,4R*)-4-Isopropylamino-2-(4-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-piperidin-2-one
The product of procedure (28e), (±) 1-[(1S*,2R*,4R*)-4-isopropylamino-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one (˜10 mg), was dissolved in MeOH. The resulting solution was charged with ˜20 mg 10% Pd/C, stirred under 1 atm of H2 for 12 h, filtered, and concentrated in vacuo. The residue was redissolved in MeOH. The resulting solution was charged with ˜40 mg 10% Pd/C, stirred under 55 atm of H2 for 12 h, filtered, and concentrated in vacuo. The residue was redissolved in MeOH. The resulting solution was charged with ˜50 mg 10% Pd/C, stirred under 55 atm of H2 for 36 h, filtered, and concentrated in vacuo. The residue was dissolved in 0.5% TFA/MeCN and concentrated in vacuo to afford a mixture of diastereomers as the title compound as its TFA salt (10 mg). MS found: (M+H)+=537.

reactant | (±) 1-[(1S*,2R*,4R*)-4-isopropylamino-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-5,6-dihydro-1H-pyridin-2-one | ˜10 mg | C(C)(C)N[C@H]1C[C@H]([C@H](CC1)N1C(C=C(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)CS(=O)(=O)C1=CC=C(C=C1)SC | C29H35F3N2O3S2
reactant | TFA | 10 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | ˜20 mg | [Pd] | Pd
product | (±) 1-[(1S,2R*,4R*)-4-Isopropylamino-2-(4-benzenesulfonylmethyl)-cyclohexyl]-4-(3-trifluoromethyl-phenyl)-piperidin-2-one | C(C)(C)N[C@H]1C[C@H]([C@H](CC1)N1C(CC(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)CS(=O)(=O)C1=CC=CC=C1 | C28H35F3N2O3S
